US05756504
1-(2-Methoxy-4-(1-((imidazol-4-yl)methylcarbonyl)-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl) piperazine-2-carboxamide
1-(2-Methoxy-4-(4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl) piperazine-2-carboxamide (200 mg, 0.429 mmole) and 4-imidazoleacetic acid (70 mg, 0.429 mmole) were dissolved in 4 ml of dry N,N-dimethylformamide at room temperature. To this solution was added 209 mg (0.472 mmole) of benzotriazol-1-yloxy-tris(dimethylamino)-phosphonium hexafluorophosphate (BOP). The pH of the reaction mixture was adjusted to 9 with the addition of diisopropylethylamine (DEA) in 100 μL increments. The reaction mixture was stirred at ambient temperature for 2 hr whereupon all volatiles were removed under reduced pressure. The residue was suspended in ethyl acetate and this suspension was washed with water. The organic phase and some insoluble material were combined, concentrated, and azeotropically dried with toluene. The resulting semi-solid was purified via preparative thick layer chromatography on precoated silica gel plates (85:15:1.5 chloroform-methanol-concentrated ammonium hydroxide elution) to give the title compound in homogeneous form: m.p. 120°-124° C.

reactant | 1-(2-Methoxy-4-(4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl) piperazine-2-carboxamide | 0.429 mmole, 200 mg | COC1=C(C=CC(=C1)OC1CCNCC1)CC(=O)N1C(CN(CC1)C1=C(C=CC=C1)C)C(=O)N | C26H34N4O4
reactant | 4-imidazoleacetic acid | 0.429 mmole, 70 mg | N1C=NC(=C1)CC(=O)O | C5H6N2O2
reactant | benzotriazol-1-yloxy-tris(dimethylamino)-phosphonium hexafluorophosphate | 0.472 mmole, 209 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-(2-Methoxy-4-(1-((imidazol-4-yl)methylcarbonyl)-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl) piperazine-2-carboxamide | COC1=C(C=CC(=C1)OC1CCN(CC1)C(=O)CC=1N=CNC1)CC(=O)N1C(CN(CC1)C1=C(C=CC=C1)C)C(=O)N | C31H38N6O5
